US08097628B2
m-CPBA (626 mg, 2.72 mmol) was added to a suspension of 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine (271.4 mg, 1.359 mmol) and NaHCO3 (343 mg, 4.08 mmol) in DCM (3 ml) and stirred at room temperature. After 21 h, HPLC showed full conversion. DCM and 1M NaOH were added. It was extracted, dried (MgSO4), filtered, and concentrated yielding 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine 1-oxide (228 mg, 78%) as a pale yellow oil pure enough to be used in the next step.

reactant | m-CPBA | 2.72 mmol, 626 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine | 1.359 mmol, 271.4 mg | ClC=1C(=NC=C(C1)C1OCCO1)C | C9H10ClNO2
reactant | NaHCO3 | 4.08 mmol, 343 mg | C(=O)(O)[O-].[Na+]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-(1,3-dioxolan-2-yl)-2-methylpyridine 1-oxide | 228 mg, 78% | ClC=1C(=[N+](C=C(C1)C1OCCO1)[O-])C | C9H10ClNO3
